US05260297
Using the procedure described in Example 1, starting with 2-(2-trifluoroacetylimino-6-trifluoromethoxy-3-benzothiazolinyl)ethyl methanesulphonate (5.88 g) in toluene (200 cc) and 4-(2-methylphenyl)piperazine (6.87 g) and after 2 hours under reflux, the toluene filtrate is evaporated under reduced pressure. To the residue thereby obtained, methanol (100 cc) and a 7% strength aqueous-alcoholic solution (20 cc) of potassium carbonate are added and the mixture is stirred for 2 hours at approximately 20° C. The alcohol is evaporated off under reduced pressure and the residue is purified by chromatography on a silica column with a dichloromethane/ethyl acetate mixture (70:30 by volume) as eluent, and then an ethyl acetate/cyclohexane mixture (50:50 by volume) as eluent. 2-Imino-3-{2-[4-(2-methylphenyl)-1-piperazinyl]ethyl}-6-trifluoromethoxybenzothiazoline (1.8 g), m.p. 135° C., is thereby obtained.

reactant | 2-(2-trifluoroacetylimino-6-trifluoromethoxy-3-benzothiazolinyl)ethyl methanesulphonate | 5.88 g | CS(=O)(=O)OCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=NC(C(F)(F)F)=O | C13H10F6N2O5S2
reactant | 4-(2-methylphenyl)piperazine | 6.87 g | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | methanol | 100 cc | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | 2-Imino-3-{2-[4-(2-methylphenyl)-1-piperazinyl]ethyl}-6-trifluoromethoxybenzothiazoline | 1.8 g | N=C1SC2=C(N1CCN1CCN(CC1)C1=C(C=CC=C1)C)C=CC(=C2)OC(F)(F)F | C21H23F3N4OS
